US05591762
4'-[[2-n-Butyl-7-[4-(benzimidazol-1-yl)-butyloxy]-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.-butyl 4'-[[2-n-butyl-7-[4-(benzimidazol-1-yl)-butyloxy]-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.-butyl 4'-[[2-n-butyl-7-[4-(benzimidazol-1-yl)-butyloxy]-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OCCCCN2C=NC1=C2C=CC=C1 | C41H46N4O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[[2-n-Butyl-7-[4-(benzimidazol-1-yl)-butyloxy]-4-methyl-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C(=CC=C2C)OCCCCN2C=NC1=C2C=CC=C1 | C37H38N4O3
